US07501430B2
1h: Preparation of 3-{5-[2-({(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}amino)pyrimidin-4-yl]imidazo[2,1-b][1,3]thiazol-6-yl}phenol
The N-{(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}-4-[6-(3-methoxy-phenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-amine (6.98 g, 12.03 mmol) in methylene chloride (100 ml) was cooled to −78° C. and slowly treated with 1 molar solution of boron tribromide in methylene chloride (65 ml). The reaction mixture was kept at −78° C. for one hour then was allowed to warm to room temperature for two hours. The mixture was quenched by the addition of methanol (25 ml) at 0° C. and was stirred at room temperature for an additional hour. The mixture was diluted with methylene chloride (500 ml) and washed with three portions of 100 ml of saturated sodium bicarbonate solution, two portions of 100 ml of water and two portions of 100 ml of saturated sodium chloride solution. The organic phase was dried over sodium sulfate and concentrated in vacuo, giving a yellow foam. The crude product was re-crystallized from methanol as a yellow solid (4.85 g, 71%). M.p.=174-177° C. 400 MHz 1H NMR (DMSO-d6 at 60° C.) δ: 9.4 (br. s, 1H), 8.70 (br. s, 1H), 8.12 (d, J=5.5 Hz, 1H), 7.8-7.7 (m, 2H), 7.7-7.65 (m, 2H), 7.40 (d, J=4.7 Hz, 1H), 7.25 (t, J=8.0 Hz, 1H), 7.15 (d, J=7.4 Hz, 1H), 7.0-6.95 (m, 1H), 6.85-6.8 (m, 1H), 6.44 (d, J=5.5 Hz, 1H), 3.95 (br. s, 1H), 3.72 (dd, J=10.6 3.1 Hz, 1H), 3.40 (m, 1H), 2.5-2.4 (m, 1H), 2.35 (t, J=10.2 Hz, 1H), 2.0-1.8 (m, 2H), 1.65-1.5 (m, 1H), 1.46-1.32 (m, 1H). LCMS: 567 [M+H]. Calc. for C26H23N6O3S2Cl.0.5 water.1.0 methanol: C, 53.33; H, 4.64; N, 13.82. Found C, 53.32; H, 4.64; N, 13.82.

reactant | N-{(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}-4-[6-(3-methoxy-phenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-amine | 12.03 mmol, 6.98 g | ClC1=CC=C(C=C1)S(=O)(=O)N1C[C@@H](CCC1)NC1=NC=CC(=N1)C1=C(N=C2SC=CN21)C2=CC(=CC=C2)OC | C27H25ClN6O3S2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 65 ml | C(Cl)Cl | CH2Cl2
product | 3-{5-[2-({(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}amino)pyrimidin-4-yl]imidazo[2,1-b][1,3]thiazol-6-yl}phenol | ClC1=CC=C(C=C1)S(=O)(=O)N1C[C@@H](CCC1)NC1=NC=CC(=N1)C1=C(N=C2SC=CN21)C=2C=C(C=CC2)O | C26H23ClN6O3S2
